US07691892B2
b) 3-[4-methyl-5-(methylthio)-4H-1,2,4-triazol-3-yl]pyridine
MeI (2 mL, 32 mmol) in EtOH (10 mL) was added to a mixture of 4-methyl-5-pyridin-3-yl-2,4-dihydro-3H-1,2,4-triazole-3-thione in 1 M NaOH (70 mL, 70 mmol). After 1 h stirring at r.t., DCM was added and the layers were separated. The water phase was washed with DCM and the combined organic phases were dried and concentrated to give 6.5 g (98%) of the title compound. 1H NMR: 2.76 (s, 3H) 3.59 (s, 3H) 7.43 (m, 1H) 7.99 (m, 1H) 8.71 (m, 1H) 8.86 (m, 1H)

reactant | MeI | 32 mmol, 2 mL | CI | CH3I
reactant | 4-methyl-5-pyridin-3-yl-2,4-dihydro-3H-1,2,4-triazole-3-thione | CN1C(NN=C1C=1C=NC=CC1)=S | C8H8N4S
reactant | NaOH | 70 mmol, 1 M, 70 mL | [OH-].[Na+]
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | EtOH | 10 mL | CCO | C2H6O
product | 3-[4-methyl-5-(methylthio)-4H-1,2,4-triazol-3-yl]pyridine | 6.5 g, 98% | CN1C(=NN=C1SC)C=1C=NC=CC1 | C9H10N4S
